US04281003
1-(2-CHLORO-6-FLUOROBENZOYL)-3-(5-BROMO-2-PYRIDINYL)UREA
To a portion of 2-chloro-6-fluorobenzamidocarboxylic acid chloride dissolved in an organic solvent, a hydrogen halide acceptor is added, and a portion of 5-bromo-2-aminopyridine is added. After a period of stirring, the reaction mixture is washed with water and neutralized, and the product named in the heading is isolated as described in Example 12. The product is identical to that of Example 2 above.

reactant | 2-chloro-6-fluorobenzamidocarboxylic acid chloride | ClC1=C(C(=O)NC(=O)Cl)C(=CC=C1)F | C8H4Cl2FNO2
reactant | 5-bromo-2-aminopyridine | BrC=1C=CC(=NC1)N | C5H5BrN2
product | 1-(2-CHLORO-6-FLUOROBENZOYL)-3-(5-BROMO-2-PYRIDINYL)UREA | ClC1=C(C(=O)NC(=O)NC2=NC=C(C=C2)Br)C(=CC=C1)F | C13H8BrClFN3O2
